US06642389B2
e] [rac]-2-Ethoxy-3-(4-hydroxy-benzofuran-7-yl)-propionic acid methyl ester
Dimethyl sulfide (4.4 ml, 60 mmol) and boron trifluoride diethyl etherate (46% purity, 3.3 ml, 12 mmol) were added to a ice cold solution of [rac]-3-(4-benzyloxy-benzofuran-7-yl)-2-ethoxy-propionic acid methyl ester (0.85 g, 2.4 mmol) in dichloromethane (25 ml) under an argon atmosphere. The mixture was stirred for 6 h at ambient temperature, poured into ice water and extracted three times with dichloromethane. The combined extract was washed with brine and dried over sodium sulfate. Removal of the solvent under reduced pressure gave a brown oil which was purified by column chromatography (silica gel, hexane/AcOEt=4/1) to give 0.45 g (1.7 mmol, 71%) of the title compound as light yellow oil.

reactant | Dimethyl sulfide | 60 mmol, 4.4 ml | CSC | C2H6S
reactant | boron trifluoride diethyl etherate | 12 mmol, 3.3 ml | B(F)(F)F.CCOCC
reactant | [rac]-3-(4-benzyloxy-benzofuran-7-yl)-2-ethoxy-propionic acid methyl ester | 2.4 mmol, 0.85 g | COC(C(CC1=CC=C(C=2C=COC21)OCC2=CC=CC=C2)OCC)=O | C21H22O5
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | [rac]-2-Ethoxy-3-(4-hydroxy-benzofuran-7-yl)-propionic acid methyl ester | 1.7 mmol, 0.45 g, 71% | COC(C(CC1=CC=C(C=2C=COC21)O)OCC)=O | C14H16O5
